US09085555B2
A. 3-Chloro-2-fluoro-5-morpholin-4-yl-benzonitrile
A suspension of 5-Bromo-3-chloro-2-fluoro-benzonitrile (200 mg, 0.85 mmol), morpholine (74 mg, 0.85 mmol), caesium carbonate (389 mg, 1.2 mmol), palladium(II) acetate (10 mg, 0.04 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (35 mg, 0.06 mmol) in toluene (5 mL) was sealed in a microwave vial and heated for 30 min at 140° C. (Emrys Optimizer; personal chemistry). The reaction mixture was quenched by addition of saturated aqueous NaHCO3, extracted with EtOAc, dried (Na2SO4) and the solvent was removed in vacuo to give the title compound which was used without further purification in the next step. TLC Rf (hexane/EtOAc 1:1)=0.60; tR (HPLC conditions c): 5.28 min.

reactant | 5-Bromo-3-chloro-2-fluoro-benzonitrile | 0.85 mmol, 200 mg | BrC=1C=C(C(=C(C#N)C1)F)Cl | C7H2BrClFN
reactant | morpholine | 0.85 mmol, 74 mg | N1CCOCC1 | C4H9NO
reactant | caesium carbonate | 1.2 mmol, 389 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.06 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.04 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Chloro-2-fluoro-5-morpholin-4-yl-benzonitrile | ClC=1C(=C(C#N)C=C(C1)N1CCOCC1)F | C11H10ClFN2O
